US07531668B2
Aqueous 4 N sodium hydroxide solution (11 mL) and di-tert-butyl dicarbonate (6.5 g) were added to a DMF solution (20 mL) of 4-aminophenylacetic acid (3.0 g), and stirred at room temperature for 1.5 hours. Further, tert-butyl dicarbonate (13.0 g) was added to it, and stirred at room temperature for 1 hour. Water and aqueous 4 N sodium hydroxide solution were added to the reaction liquid, and extracted with diethyl ether. Then, the aqueous layer was made acidic with aqueous 10% phosphoric acid solution added thereto, and thereafter extracted with diethyl ether. The diethyl ether layers were combined, washed with water and saturated saline water, and then dried with anhydrous sodium sulfate. The organic layer was concentrated under reduced pressure to obtain 2-{4-[(tert-butoxycarbonyl)amino]phenyl}acetic acid (4.3 g) as a white solid.

reactant | sodium hydroxide | 4 N, 11 mL | [OH-].[Na+]
reactant | di-tert-butyl dicarbonate | 6.5 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | 4-aminophenylacetic acid | 3.0 g | NC1=CC=C(C=C1)CC(=O)O | C8H9NO2
reactant | tert-butyl dicarbonate | 13.0 g | C(=O)(OC(C)(C)C)OC(=O)[O-]
reactant | sodium hydroxide | 4 N | [OH-].[Na+]
solvent | Water | O | H2O
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | 2-{4-[(tert-butoxycarbonyl)amino]phenyl}acetic acid | 4.3 g | C(C)(C)(C)OC(=O)NC1=CC=C(C=C1)CC(=O)O | C13H17NO4
